US04771050
To a mixture of 2-aminophenol (27 25 g), sodium hydrogencarbonate (31.5 g), ethyl acetate (250 ml), and water (200 ml), a solution of 2-bromo-3-methylbutyryl chloride (49.8 g) in ethyl acetate (100 ml) was added dropwise with ice-cooling and with stirring. After stirring with ice-cooling for further 1 hour, the ethyl acetate layer was separated, washed with water, and dried (MgSO4), and the solvent was evaporated off. The residue was crystallized from hexane, to give 2-(2-bromo-3-methylbutyryl)aminophenol. Yield was 59.7 g (87.9%). Recrystallization from isopropyl ether gave colorless prisms, mp 110°-111° C.

reactant | 2-aminophenol | 25 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | sodium hydrogencarbonate | 31.5 g | C(O)([O-])=O.[Na+]
reactant | water | 200 ml | O | H2O
reactant | 2-bromo-3-methylbutyryl chloride | 49.8 g | BrC(C(=O)Cl)C(C)C | C5H8BrClO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2-bromo-3-methylbutyryl)aminophenol | BrC(C(=O)NC1=C(C=CC=C1)O)C(C)C | C11H14BrNO2
